US05164371
A solution of benzyloxycarbonyl-L-valyl-L-proline t-butyl ester (51.8 g) dissolved in absolute ethanol (1 liter) was placed in a 2 liter hydrogenation bottle. The reaction mixture was purged with nitrogen, and 10% (w/w) palladium on carbon catalyst (10 g, 50% (w/w) water wet) was added. The reaction was placed on a large shaker apparatus and shaken at room temperature under a hydrogen atmosphere (3.4 bar). After 1 h, hydrogen uptake ceased. The reaction mixture was checked by TLC [chloroform:ethyl acetate (85:15)] and shown to contain considerable starting material (Rf =0.55). Fresh catalyst (10 g) was added, and the reaction was placed back on the apparatus for another 4 h, at which point hydrogen uptake ceased. TLC of the reaction mixture showed complete absence of starting material. The reaction mixture was filtered through a pad of diatomaceous earth, and the filter cake was washed with ethanol. Evaporation of the ethanol from the condensed solution left a cloudy yellow oil. This oil was dissolved in ether (1 liter), filtered to remove a small amount of precipitate (dicyclohexylurea) and evaporated to give crude L-valyl-L-proline t-butyl ester as a yellow oil (32.1 g, 93%).

reactant | benzyloxycarbonyl-L-valyl-L-proline t-butyl ester | 51.8 g | C(C)(C)(C)OC([C@H]1N(CCC1)C([C@@H](NC(=O)OCC1=CC=CC=C1)C(C)C)=O)=O | C22H32N2O5
solvent | ethanol | 1 liter | C(C)O | C2H6O
product | L-valyl-L-proline t-butyl ester | 32.1 g, 93% | C(C)(C)(C)OC([C@H]1N(CCC1)C([C@@H](N)C(C)C)=O)=O | C14H26N2O3
